US07563795B2
15 mg (0.016 mmol, 0.027 eq) Tris(dibenzylidene-acetone)dipalladium (0) (Pd2dba3), 27 mg (0.043 mmol, 0.072 eq) racemic-2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl [(±)-BINAP] and 450 mg (1.38 mmol, 2.3 eq) cesium carbonate were combined in a microwave vial. 1.5 mL anhydrous toluene was added, followed by 121 mg (0.60 mmol, 1.0 eq) 2-bromo-4-methylanisole and 207 mg (2.40 mmol, 4.0 eq) piperazine. The vial was flushed with nitrogen prior to being microwaved at 140° C. for 30 minutes. The reaction mixture was diluted with 3.0 mL DMSO:methanol (1:1), filtered and purified by reverse-phase HPLC (2-99% CH3CN in 0.085% TFA (aq), 50 mL/min, 3×1.5 mL injected). Yield=83 mg (43%) of 1-(2-Methoxy-5-methyl-phenyl)-piperazine as a pale yellow oil (isolated as the mono-TFA salt);

reactant | racemic-2,2′-Bis(diphenylphosphino)-1,1′-binaphthyl | 0.043 mmol, 27 mg, 0.072 eq | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 1.38 mmol, 450 mg, 2.3 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromo-4-methylanisole | 0.60 mmol, 121 mg, 1.0 eq | BrC1=C(C=CC(=C1)C)OC | C8H9BrO
reactant | piperazine | 2.40 mmol, 207 mg, 4.0 eq | N1CCNCC1 | C4H10N2
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(2-Methoxy-5-methyl-phenyl)-piperazine | Yield=83 mg, 43% | COC1=C(C=C(C=C1)C)N1CCNCC1 | C12H18N2O
